US08685969B2
4. 4-Chloro-7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indole
A yellow, homogeneous solution of 7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one (0.2510 g, 0.636 mmol) in phosphoryl trichloride (20 mL, 0.636 mmol) under nitrogen was heated at 100° C. After 1 h, the reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in cold EtOAc (250 mL) and was with ice-cold water (40 mL), ice-cold saturated aqueous NaHCO3 (40 mL), ice-cold water (40 mL) and ice-cold brine (40 mL), successively. The organic solution was dried over MgSO4 and concentrated in vacuo to give the desired product (0.2115 g, 0.512 mmol, 80% yield) as a light orange solid.

reactant | 7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one | 0.636 mmol, 0.2510 g | COCCOC=1C=CC=2C3=C(NC2C1)C(NN=C3C3=C(C(=CC=C3)[N+](=O)[O-])C)=O | C20H18N4O5
reactant | phosphoryl trichloride | 0.636 mmol, 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indole | 0.512 mmol, 0.2115 g, 80% yield | ClC1=NN=C(C2=C1NC=1C=C(C=CC21)OCCOC)C2=C(C(=CC=C2)[N+](=O)[O-])C | C20H17ClN4O4
